US09284323B2
Preparation of (2S)-ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-7-(3-(4-fluorophenyl)-3-hydroxybut-1-ynyl)-3-methylnaphthalen-2-yl)acetate:
To a solution of ethyl 2-(7-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate (70 mg, 0.14 mmol) in THF (2 mL) was added 2-(4-fluorophenyl)but-3-yn-2-ol (46 mg, 0.28 mmol), CuI (5 mg, 0.028 mmol), Pd(PPh3)4 (17 mg, 0.014 mmol), and Et3N (80 μL, 0.57 mmol). The reaction mixture was stirred at 70° C. for 1 h. A saturated solution of NH4Cl was added. The layers were separated, and the organic layer was dried, filtered, and concentrated in vacuo. The crude material was purified by column chromatography (EtOAc/hexanes) to give the titled compound. 1H-NMR: 400 MHz, (CDCl3) δ: 7.56-7.66 (m, 4H), 7.29 (m, 6H), 6.97 (m, 2H), 5.02 (s, 1H), 4.06 (q, J=7 Hz, 2H). 2.54 (s, 3H), 1.76 (s, 3H), 1.10 (s, 9H), 0.80 (t, J=7 Hz, 3H).

reactant | ethyl 2-(7-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate | 0.14 mmol, 70 mg | BrC1=CC=C2C=C(C(=C(C2=C1)C1=CC=C(C=C1)Cl)C(C(=O)OCC)OC(C)(C)C)C | C25H26BrClO3
reactant | 2-(4-fluorophenyl)but-3-yn-2-ol | 0.28 mmol, 46 mg | FC1=CC=C(C=C1)C(C)(C#C)O | C10H9FO
reactant | Et3N | 0.57 mmol, 80 μL | CCN(CC)CC | C6H15N
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | CuI | 0.028 mmol, 5 mg | [Cu]I
catalyst | Pd(PPh3)4 | 0.014 mmol, 17 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2S)-ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-7-(3-(4-fluorophenyl)-3-hydroxybut-1-ynyl)-3-methylnaphthalen-2-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC(=CC=C2C=C1C)C#CC(C)(O)C1=CC=C(C=C1)F)C1=CC=C(C=C1)Cl | C35H34ClFO4
